US08703946B2
A 1.4M solution of methylmagnesium bromide in toluene and THF (3.88 mL, 5.43 mmol) was added to a solution of 2-dimethylsulfamoyl-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid methoxy-methyl-amide (1.54 g, 4.17 mmol) in THF (20 mL) at −78° C. and under nitrogen. The mixture was stirred at −78° C. for 1 hour and then at room temperature for 16 hours. Then, a second portion of methylmagnesium bromide in toluene and THF (3.58 mL, 5.01 mmol) was added at 0° C. and the mixture was stirred at room temperature for 3 hours. The mixture was diluted with a saturated solution of NH4Cl and extracted with AcOEt. The organic layer was separated, dried (Na2SO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in heptane 0/100 to 50/50). The desired fractions were collected and the solvents evaporated in vacuo to yield 5-acetyl-3-phenoxymethyl-pyrazole-1-sulfonic acid dimethylamide (1.2 g, 89% yield) as a white solid.

reactant | methylmagnesium bromide | C[Mg]Br
reactant | 2-dimethylsulfamoyl-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid methoxy-methyl-amide | 4.17 mmol, 1.54 g | CON(C(=O)C=1N(N=C(C1)COC1=CC=CC=C1)S(N(C)C)(=O)=O)C | C15H20N4O5S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
solvent | THF | 5.01 mmol, 3.58 mL | C1CCOC1 | C4H8O
solvent | THF | 5.43 mmol, 3.88 mL | C1CCOC1 | C4H8O
product | 5-acetyl-3-phenoxymethyl-pyrazole-1-sulfonic acid dimethylamide | 1.2 g, 89% yield | CN(S(=O)(=O)N1N=C(C=C1C(C)=O)COC1=CC=CC=C1)C | C14H17N3O4S
